US05095025
Synthesis of 3-allyl-2-methoxycarbonyliminobenzothiazole (compound No. 4 in Table 1):
To a mixture comprising 3.8 g of 3-allyl-2-iminothiazole, 3.4 g of sodium hydrogencarbonate and 50 ml of tetrahydrofuran was added 1.9 g of methyl chloroformate dropwise at room temperature under stirring. After reacting for two hours, the reaction mixture was poured into approximately 200 ml of water. The crystals precipitated were collected by filtering to thereby obtain 4.5 g of the objective compound.

reactant | 3-allyl-2-iminothiazole | 3.8 g | C(C=C)N1C(SC=C1)=N | C6H8N2S
reactant | sodium hydrogencarbonate | 3.4 g | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methyl chloroformate | 1.9 g | ClC(=O)OC | C2H3ClO2
solvent | water | approximately 200 ml | O | H2O
product | 3-allyl-2-methoxycarbonyliminobenzothiazole | 4.5 g, Yield: 91% | C(C=C)N1C(SC2=C1C=CC=C2)=NC(=O)OC | C12H12N2O2S
